### PR TITLE
[Merged by Bors] - feat: port CanLift instances for PNat

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
- [x] depends on  #1425

### CODE REVIEW

File: Mathlib/Data/PNat/Defs.lean [hunk 1]
```diff
@@ -33,8 +35,10 @@ notation "ℕ+" => PNat
 instance : One ℕ+ :=
   ⟨⟨1, Nat.zero_lt_one⟩⟩
 
+def val : ℕ+ → ℕ := Subtype.val
```
Comment (LukasMias) [inline Mathlib/Data/PNat/Defs.lean:38]:
```suggestion
@[coe]
def val : ℕ+ → ℕ := Subtype.val
```

I'm not super confident about these things, but if we add @[coe] here and rebuild, the `[norm_cast]` errors in the Basic file seem to go away!

File: test/lift.lean [hunk 2]
```diff
@@ -189,3 +190,21 @@ example (x : WithBot Unit) (h : x ≠ ⊥) : True := by
   guard_hyp x : Unit
   guard_hyp h : (x : WithBot Unit) ≠ ⊥
   trivial
+
+example (n : ℕ) (hn : 0 < n) : True := by
+  lift n to ℕ+
+  · guard_target =ₛ 0 < n
+    exact hn
+
+  guard_hyp n : ℕ+
```
Comment (Ruben-VandeVelde) [inline test/lift.lean:199]: Without the `PNat.val` change, this fails with `hypothesis n has type { n // 0 < n }, not ℕ+`

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
